US05843957
Preparation of N-[1-isobutyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (100 mg, 0.21 mmol) in DMF (5 ml) were added potassium carbonate (1.39 g, 10.1 mmol), potassium iodide (10 mg, 0.07 mmol) and 1-bromo-2-methylpropane (58 mg, 0.43 mmol), and the mixture was stirred at room temperature for five hours. The mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The resultant was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (1-3% methanol in chloroform) to give the title compound (71 mg, 0.13 mmol).

reactant | N-[4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.21 mmol, 100 mg | COC=1C=C(C=CC1)C1=C(C(NC2=NC=CC=C12)=O)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C | C28H30N4O3
reactant | potassium carbonate | 10.1 mmol, 1.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.07 mmol, 10 mg | [I-].[K+]
reactant | 1-bromo-2-methylpropane | 0.43 mmol, 58 mg | BrCC(C)C | C4H9Br
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[1-isobutyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.13 mmol, 71 mg | C(C(C)C)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C32H38N4O3
